US07115646B2
Part A. To a solution of (1S, 2S)-2-benzyloxycyclopentyl-amine (9.8 g, 51.2 mmol) in THF (150 mL) was added Et3N (13.6 mL, 0.10 mol) and (Boc)2O (12.30 g, 56.4 mmol) sequentially at 0° C. The reaction mixture was stirred overnight at room temperature and diluted with EtOAc (200 mL). The organic phase was washed with H2O, brine, and dried (Na2SO4). The solvent was evaporated to afford (1S, 2S)-2-benzyloxy-cyclopentyl-carbamic acid tert-butyl ester (14.90 g, 100%) as a slight yellow solid. MS m/z 293.0 ([M+H]+).

reactant | (1S, 2S)-2-benzyloxycyclopentyl-amine | 51.2 mmol, 9.8 g | C(C1=CC=CC=C1)O[C@@H]1[C@H](CCC1)N | C12H17NO
reactant | Et3N | 0.10 mol, 13.6 mL | CCN(CC)CC | C6H15N
reactant | (Boc)2O | 56.4 mmol, 12.30 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (1S, 2S)-2-benzyloxy-cyclopentyl-carbamic acid tert-butyl ester | 14.90 g, 100% | C(C)(C)(C)OC(N[C@@H]1[C@H](CCC1)OCC1=CC=CC=C1)=O | C17H25NO3
